US09371320B2
F) 4-(4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
A solution of 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (254 mg), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (207 mg), tetrakis(triphenylphosphine)palladium(0) (77.0 mg) and 2M aqueous sodium carbonate solution (1.0 mL) in DME (15 mL) was heated overnight with reflux under nitrogen atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate/diisopropyl ether to give the title compound (181 mg).

reactant | 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 254 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2COCCC2)(F)F | C13H14F3N3O5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 207 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
reactant | sodium carbonate | 2M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 77.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 181 mg | COC1=NC=CC2=C1C(=NN2C2COCCC2)C2=CC=C(C=C2)S(=O)(=O)N | C18H20N4O4S
